US05491143
In step a, the N-(phenylmethylene)glycine methyl ester of structure 55 can be treated with one equivalent of a non-nucleophilic base, such as lithiumdiisopropylamide, in a suitable aprotic solvent, such as tetrahydrofuran, followed by addition of a 4-halobutene of structure 56 to give 2-(3-butenyl)-N-(phenylmethylene)glycine methyl ester of structure 57.

reactant | N-(phenylmethylene)glycine methyl ester | COC(CN=CC1=CC=CC=C1)=O | C10H11NO2
reactant | lithiumdiisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(3-butenyl)-N-(phenylmethylene)glycine methyl ester | COC(C(N=CC1=CC=CC=C1)CCC=C)=O | C14H17NO2
